US04202899
(b) 8-Ethyl-5,8-dihydro-5-oxo-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester
351 g of 4-[2-(2-cyano-3-ethoxy-3-oxo-1-propenyl)hydrazino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester are heated in 2 liters of acetic acid containing 50 g of zinc chloride for 24 hours. After this time, the solution is cooled and 2 liters of cold water are added. The precipitated 8-ethyl-5,8-dihydro-5-oxo-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester is filtered off and purified by dissolving in the theoretical amount of sodium hydroxide in water and precipitating the compound with acetic acid, yield 256 g (83%); m.p. 263°-265°.

reactant | 4-[2-(2-cyano-3-ethoxy-3-oxo-1-propenyl)hydrazino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 351 g | C(#N)C(=CNNC1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC)C(=O)OCC | C17H20N6O4
reactant | water | 2 liters | O | H2O
solvent | acetic acid | 2 liters, 50 g | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 8-Ethyl-5,8-dihydro-5-oxo-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | C(C)N1N=CC2=C1N=CC=1C(NC=3N(C12)N=CC3C(=O)OCC)=O | C15H14N6O3
